US07576215B2
4-{4-[2-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)ETHYL]PIPERIDIN-1-YL}BENZOIC ACID
This compound was prepared according to the procedure of example 66, substituting 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine and 4-[4-(2-oxo-ethyl)-piperidin-1-yl]-benzoic acid methyl ester. MS (ESI) m/z 610.

reactant | 3-(3-benzyl-8-trifluoromethyl-quinolin-4-yl)-phenylamine | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)N)C(F)(F)F | C23H17F3N2
reactant | 4-[4-(2-oxo-ethyl)-piperidin-1-yl]-benzoic acid methyl ester | COC(C1=CC=C(C=C1)N1CCC(CC1)CC=O)=O | C15H19NO3
product | 4-{4-[2-({3-[3-BENZYL-8-(TRIFLUOROMETHYL)QUINOLIN-4-YL]PHENYL}AMINO)ETHYL]PIPERIDIN-1-YL}BENZOIC ACID | C(C1=CC=CC=C1)C=1C=NC2=C(C=CC=C2C1C=1C=C(C=CC1)NCCC1CCN(CC1)C1=CC=C(C(=O)O)C=C1)C(F)(F)F | C37H34F3N3O2
